US07776864B2
Step 3: 5-chloro-6-phenylpyrazolo[1,5-a]pyrimidine
A mixture of 1 g 5,7-dichloro-6-phenylpyrazolo[1,5-a]pyrimidine, 0.5 ml glacial acetic acid, 1 ml methanol, 6 ml THF and 730 mg of Zn/Cu pair are stirred for 3 h at 50° C. The mixture is filtered through celite, evaporated to dryness and the residue is purified on silica gel (hexanes/ethyl acetate) to yield 550 mg of a 1:1 mixture of the desired product and the starting material, which was used without further purification.

reactant | 5,7-dichloro-6-phenylpyrazolo[1,5-a]pyrimidine | 1 g | ClC1=NC=2N(C(=C1C1=CC=CC=C1)Cl)N=CC2 | C12H7Cl2N3
reactant | acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
reactant | methanol | 1 ml | CO | CH4O
solvent | THF | 6 ml | C1CCOC1 | C4H8O
product | 5-chloro-6-phenylpyrazolo[1,5-a]pyrimidine | ClC1=NC=2N(C=C1C1=CC=CC=C1)N=CC2 | C12H8ClN3
